US07112638B2
Synthesis of 1-bromo-2-(3-indenyl)ethane
A 1.6 M n-BuLi solution in hexane (100 mL, 0.16 mol) was added at 0° C. to a solution of indene (18.6 g, MW=116.16, 0.16 mol) in 300 mL of ether. The resulting suspension was allowed to warm to room temperature and stirred for 4 h at the same temperature. Then the indenyl lithium suspension was cooled again to −50° C. and added of a solution of 1,2-dibromoethane (0.24 mol, 21 mL) in 50 mL of ether. The reaction mixture was allowed to warm up slowly to room temperature and stirred overnight. Then it was treated with a saturated aqueous solution of NH4Cl. The organic phase was isolated, evaporated off to dryness and distilled in vacuo, b.p. 110° C./0.5 torr. Yield 21.6 g (60%). The title compound was characterized by NMR spectroscopy.

reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 0.16 mol, 100 mL | CCCCCC | C6H14
reactant | indene | 0.16 mol, 18.6 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | indenyl lithium | C1(C=CC2=CC=CC=C12)[Li]
reactant | 1,2-dibromoethane | 0.24 mol, 21 mL | BrCCBr | C2H4Br2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-bromo-2-(3-indenyl)ethane | BrCCC1=CCC2=CC=CC=C12 | C11H11Br
